US08859566B2
To a solution of 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one (0.05 g, 0.136 mmol) in NMP (1 ml) under argon was added Diisopropyl ethyl amine (0.035 g, 0.27 mmol) and 4-Trifluoromethyl-benzylamine (0.035 g, 0.203 mmol). The reaction mixture was heated at 110° C. for overnight. The reaction mixture concentrated under reduced pressure. The residue was obtained was purified by preparative HPLC to obtain 8-(1-Benzyl-1H-pyrazol-4-yl)-2-methylamino-1-propyl-1,7-dihydro-purin-6-one (0.022 g, 32%) as a white solid.

reactant | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one | 0.136 mmol, 0.05 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)Cl | C18H17ClN6O
reactant | Diisopropyl ethyl amine | 0.27 mmol, 0.035 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-Trifluoromethyl-benzylamine | 0.203 mmol, 0.035 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-methylamino-1-propyl-1,7-dihydro-purin-6-one | 0.022 g, 32% | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)NC | C19H21N7O
